US08202865B2
Step 6: methyl 4-[amino(hydroxyimino)methyl]-2-fluoro-5-methoxybenzoate
Methyl 4-cyano-2-fluoro-5-methoxybenzoate (64 mg; 0.31 mmol; 1 eq.) was dissolved in MeOH. Hydroxylamine (90.23 μl; 1.53 mmol; 5 eq.) was added and the mixture was stirred at RT overnight. As the reaction was not complete, it was heated at 50° C. for one more day. The solvents were then evaporated, affording the title product as an orange oil, which was used without further purification (74 mg; 100%). LC/MS (Method B): 243.1 (M+H)+. HPLC (Method A) Rt 1.24 min (Purity: 80.3%).

reactant | Methyl 4-cyano-2-fluoro-5-methoxybenzoate | 0.31 mmol, 64 mg, 1 eq. | C(#N)C1=CC(=C(C(=O)OC)C=C1OC)F | C10H8FNO3
reactant | Hydroxylamine | 1.53 mmol, 90.23 μl, 5 eq. | NO | H3NO
solvent | MeOH | CO | CH4O
product | methyl 4-[amino(hydroxyimino)methyl]-2-fluoro-5-methoxybenzoate | NC(C1=CC(=C(C(=O)OC)C=C1OC)F)=NO | C10H11FN2O4
